US07338960B2
Ethyl {[2-methyl-4-({1-[4′-(trifluoromethyl)-3-biphenylyl]ethyl}thio)phenyl]oxy}acetate
Zinc (229 mg, 3.50 mmol) was added to EtOAc (10 mL) followed by AcOH (115 μM, 2.00 mmol) and ethyl [4-(chlorosulfonyl)-2-methylphenoxy]acetate (293 mg, 1.00 mmol). After 2 hours, dichlorodimethylsilane (258 mg, 2.00 mmol) was added followed by 1-[4′-(trifluoromethyl)-3-biphenylyl]ethanol (266 mg, 1.00 mmol) and the mixture stirred for a further 1 hour and then heated at 80° C. for 5 hours. The mixture was then cooled, diluted with EtOAc and washed with saturated aqueous NaHCO3, saturated aqueous NH4Cl, water and brine, and then reduced. Purification by Biotage™ chromatography (silica) eluting with petrol:EtOAc (9:1) afforded the title compound as a colourless oil (238 mg).

reactant | AcOH | 2.00 mmol, 115 μM | CC(=O)O | C2H4O2
reactant | ethyl [4-(chlorosulfonyl)-2-methylphenoxy]acetate | 1.00 mmol, 293 mg | ClS(=O)(=O)C1=CC(=C(OCC(=O)OCC)C=C1)C | C11H13ClO5S
reactant | dichlorodimethylsilane | 2.00 mmol, 258 mg | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | 1-[4′-(trifluoromethyl)-3-biphenylyl]ethanol | 1.00 mmol, 266 mg | FC(C1=CC=C(C=C1)C1=CC(=CC=C1)C(C)O)(F)F | C15H13F3O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Zinc | 3.50 mmol, 229 mg | [Zn] | Zn
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | Ethyl {[2-methyl-4-({1-[4′-(trifluoromethyl)-3-biphenylyl]ethyl}thio)phenyl]oxy}acetate | 238 mg | CC1=C(C=CC(=C1)SC(C)C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)OCC(=O)OCC | C26H25F3O3S
